US07132438B2
To a solution of 4-cyclohexylamino-3-nitrobenzyl alcohol (21.0 g, 83 mmol) in DCM (300 mL) was added powdered 4 Å molecular sieves (15 g) and N-methyl morpholine-N-oxide monohydrate (10.8 g, 92.2 mmol). Tetra-n-propylammonium perruthenate (VII) (2.91 g, 8.28 mmol) was then added in a single portion. An initial exotherm was controlled using an ice bath, and then the reaction mixture was stirred at room temperature for 18 hr. The mixture was then reduced to ˜100 mL by evaporation, and loaded onto a column of silica (400 g). The column was eluted with acetone:hexane 1:3 and the spot at 0.30 was collected, affording 4-cyclohexylamino-3-nitrobenzaldehyde as a yellow solid. (11.0 g, 44.3 mmol): 1H NMR (CDCl3, 300 MHz) δ 9.60 (s, 1 H), 8.32 (s, 1 H), 7.71 (d, J=10 Hz,1 H), 6.73 (d, J=10 Hz, 1 H) 3.46–3.32 (m, 1 H), 1.90–1.15 (m, 10 H).

reactant | 4-cyclohexylamino-3-nitrobenzyl alcohol | 83 mmol, 21.0 g | C1(CCCCC1)NC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C13H18N2O3
reactant | N-methyl morpholine-N-oxide monohydrate | 92.2 mmol, 10.8 g | O.C[N+]1(CCOCC1)[O-]
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | Tetra-n-propylammonium perruthenate | 8.28 mmol, 2.91 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-cyclohexylamino-3-nitrobenzaldehyde | C1(CCCCC1)NC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C13H16N2O3
